US03962224
A mixture of dibutyl N-benzyl-aminomethylphosphonate hydrochloride (122.4 g) and 10% palladium on powdered charcoal (5.0 g) in ethanol (1000 ml) is hydrogenated at 40 psi for 2 hours. The catalyst is removed by filtration and the filtrate is evaporated under reduced pressure to yield dibutyl aminomethylphosphonate hydrochloride.

reactant | dibutyl N-benzyl-aminomethylphosphonate hydrochloride | 122.4 g | Cl.C(C1=CC=CC=C1)NCP(OCCCC)(OCCCC)=O
reactant | charcoal | 5.0 g | C | CH4
solvent | ethanol | 1000 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | dibutyl aminomethylphosphonate hydrochloride | Cl.NCP(OCCCC)(OCCCC)=O | InChI=1S/C9H22NO3P.ClH/c1-3-5-7-12-14(11,9-10)13-8-6-4-2;/h3-10H2,1-2H3;1H
